US04663344
5-Chloro-3-hydroxy-2-phenylbenzo[b]thiophene
A mixture of 3-acetoxy-5-chloro-2-phenylbenzo[b]thiophene (150 mg, 0.50 mmol) and 20% aqueous sodium hydroxide (5 ml) was stirred at reflux temperature for 1 hour. The cooled reaction mixture was acidified with concentrated hydrochloric acid, the solid that separated out filtered, washed with water, and dried in vacuo over phosphorous pentoxide. Recrystallization from cyclohexane afforded pure 5-chloro-3-hydroxy-2-phenylbenzo[b]thiophene; yield 35 mg (26%); m/z 275 (M+.).

reactant | 3-acetoxy-5-chloro-2-phenylbenzo[b]thiophene | 0.50 mmol, 150 mg | C(C)(=O)OC=1C2=C(SC1C1=CC=CC=C1)C=CC(=C2)Cl | C16H11ClO2S
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5-Chloro-3-hydroxy-2-phenylbenzo[b]thiophene | ClC1=CC2=C(SC(=C2O)C2=CC=CC=C2)C=C1 | C14H9ClOS
